US04675397
In 1 ml of water is dissolved 30 mg of the above 3-amino-3-methoxy-2-oxoazetidine-1-sulfonic acid, and to the solution are added a solution of 89 mg of the acid chloride prepared from 2-(2-chloroacetamido-4-thiazolyl)-2-methoxyiminoacetic acid (syn-isomer) in 1 ml of tetrahydrofuran and 36 mg of sodium hydrogen carbonate in alternate portions with ice-cooling and stirring. The mixture is further stirred at room temperature for 20 minutes and adjusted to pH 5.8 with phosphoric acid. After removal of tetrahydrofuran under reduced pressure, the water layer is washed with ethyl acetate and purified by Amberlite XAD-II chromatography. The above procedure yields 28 mg of sodium 3-[2-(2-chloroacetamido-4-thiazolyl)-2-methoxyiminoacetamido]-3-methoxy-2-oxoazetidine-1-sulfonate (syn-isomer) which is the same compound as the one described in Example 9.

reactant | 3-amino-3-methoxy-2-oxoazetidine-1-sulfonic acid | 30 mg | NC1(C(N(C1)S(=O)(=O)O)=O)OC | C4H8N2O5S
reactant | 2-(2-chloroacetamido-4-thiazolyl)-2-methoxyiminoacetic acid | ClCC(=O)NC=1SC=C(N1)C(C(=O)O)=NOC | C8H8ClN3O4S
reactant | sodium hydrogen carbonate | 36 mg | C(O)([O-])=O.[Na+]
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
solvent | water | 1 ml | O | H2O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | sodium 3-[2-(2-chloroacetamido-4-thiazolyl)-2-methoxyiminoacetamido]-3-methoxy-2-oxoazetidine-1-sulfonate | 28 mg | ClCC(=O)NC=1SC=C(N1)C(C(=O)NC1(C(N(C1)S(=O)(=O)[O-])=O)OC)=NOC.[Na+] | InChI=1S/C12H14ClN5O8S2.Na/c1-25-12(5-18(10(12)21)28(22,23)24)16-9(20)8(17-26-2)6-4-27-11(14-6)15-7(19)3-13;/h4H,3,5H2,1-2H3,(H,16,20)(H,14,15,19)(H,22,23,24);/q;+1/p-1
